US04469695
A solution of bromine (30.6 g, 1.2 eg) in chloroform (150 ml) was added dropwise to a solution of 1-(3,4-dimethoxyphenyl)-1-ethanone (28.8 g) in chloroform (50 ml) over a period of 3-5 hr. The mixture was stirred for 1.5 hr. A stream of nitrogen was passed to remove the hydrobromic acid gas. The mixture was diluted with chloroform, washed with water, aqueous sodium bicarbonate and water, dried and evaporated. The crude product (48.3 g) was passed through a silica gel column (1.5 kg) using ethyl acetate-hexane (1:4) and the eluates were evaporated to give 2-bromo-1-(3,4-dimethoxyphenyl)-1-ethanone (19.7 g), mp 87°-90° C.

reactant | bromine | 30.6 g | BrBr | Br2
reactant | 1-(3,4-dimethoxyphenyl)-1-ethanone | 28.8 g | COC=1C=C(C=CC1OC)C(C)=O | C10H12O3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-1-(3,4-dimethoxyphenyl)-1-ethanone | 19.7 g | BrCC(=O)C1=CC(=C(C=C1)OC)OC | C10H11BrO3
